US07320992B2
Preparation 19. N-(5-amino-2-tert-butylphenyl)-2-piperidin-1-yl-acetamide
N-(5-Nitro-2-tert-butylpheny)-2-piperidin-1-yl-acetamide (1.77 g, 5.5 mmol) was dissolved in EtOH (100 mL) and 1,4-dioxane (10 mL). The solution was degassed under vacuum with stirring. A catalytic amount of 5% Pd/C was added (as a slurry in EtOH). The mixture was degassed again, then the reaction vessel was charged with H2 gas (balloon) and stirred overnight at RT. The reaction was filtered through Celite® with MeOH and the filtrate was concentrated under reduced pressure. The recovered material was eluted through a column of silica gel with a 5 to 40% (90:10:1 CH2Cl2:MeOH:NH4OH(aq)) to CH2Cl2 linear gradient giving a brown foamy solid. MS: 290 (M+1). Calc'd. for C17H27N3O—289.42.

reactant | N-(5-Nitro-2-tert-butylpheny)-2-piperidin-1-yl-acetamide | 5.5 mmol, 1.77 g | [N+](=O)([O-])C=1C=CC(=C(C1)NC(CN1CCCCC1)=O)C(C)(C)C | C17H25N3O3
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(5-amino-2-tert-butylphenyl)-2-piperidin-1-yl-acetamide | NC=1C=CC(=C(C1)NC(CN1CCCCC1)=O)C(C)(C)C | C17H27N3O
